US06727256B1
5-(4-(4-Benzyloxy-phenylamino)-7-fluoro-quinazolin-6-yl)-furan-2-carboxaldehyde hydrochloride
Prepared according to Procedure C from a stirred solution of (4-benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine (0.51 grams, 1.1 mmol) in 20 ml of THF was added 5 ml of 1 N HCl. After stirring for 90 minutes, the resultant suspension was filtered and washed with diethyl ether (200 ml) to yield, after drying under vacuum, a yellow solid (0.32 grams, 61% yield). δ1H NMR (400 MHz, DMSO-d6) 11.52(s, 1H), 9.70(s, 1H), 9.25(d, 1H),8.76(s, 1H), 7.76(m, 2H), 7.55(d, 2H), 7.45(d, 2H), 7.33(m, 4H), 7.11(d, 2H), 5.14(s, 2H). ESI-MS m/z 440(M+1).

reactant | (4-benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine | 1.1 mmol, 0.51 grams | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)C=1OC(=CC1)C1OCCO1)F | C28H22FN3O4
reactant | HCl | 1 N, 5 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(4-(4-Benzyloxy-phenylamino)-7-fluoro-quinazolin-6-yl)-furan-2-carboxaldehyde hydrochloride | 0.32 grams, 61% yield | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)C1=CC=C(O1)C=O)F | InChI=1S/C26H18FN3O3.ClH/c27-23-13-24-22(12-21(23)25-11-10-20(14-31)33-25)26(29-16-28-24)30-18-6-8-19(9-7-18)32-15-17-4-2-1-3-5-17;/h1-14,16H,15H2,(H,28,29,30);1H
